US08247403B2
(2) 8-(pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A solution of tert-butyl 8-(pyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (110 mg, 0.345 mmol) in 4N hydrogen chloride-ethyl acetate (2 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (74.0 mg, 73.3%) as a solid.

reactant | tert-butyl 8-(pyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.345 mmol, 110 mg | N1(CCCC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C18H26N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
product | 8-(pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 74.0 mg, 73.3% | Cl.Cl.N1(CCCC1)C1=CC2=C(CNCCO2)C=C1 | InChI=1S/C13H18N2O.2ClH/c1-2-7-15(6-1)12-4-3-11-10-14-5-8-16-13(11)9-12;;/h3-4,9,14H,1-2,5-8,10H2;2*1H
